US06100258
N-Ethyl 5-chloro-2-(2-methylprop-2-en-1-yloxy)benzylamine
A mixture of 5-chlorosalicylaldehyde (25.0 g, 0.16 mol), anhydrous potassium carbonate (70.0 g, 0.5 mol), methallyl chloride (27.0 ml, 0.27 mol) and N-methylpyrrolidinone (250 ml) was stirred under reflux condenser at 60-70° C. for 16 hours. The mixture was cooled to 20° C. and treated cautiously with a solution of ethyl amine hydrochloride (40.0 g, 0.49 mol) in 200 ml methanol (frothing occurs). After complete addition the mixture was stirred for 1 hour at 20° C., then treated portionwise with sodium borohydride (4.6 g, 0.12 mol) and small aliquots (~1.0 ml) of ether to reduce frothing. The mixture was stirred for 1 hour at 20° C. and the boron-amine complex decomposed by cautious addition of 6N HCl (200 ml), cooling as necessary. The mixture was Stirred for 1 hour at 20° C., then basified with 2N NaOH to pH10 and extracted with dichloromethane (3×250 ml). The combined organic extracts were washed with water (3×250 ml), dried over anhydrous magnesium sulphate, filtered and evaporated to give a brown oil, which was dissolved in isopropanol (200 ml). Concentrated hydrochloric acid (36% w/v, 10 ml) was added with stirring and the solution cooled at 5° C. for 2 hours, white crystalline needles formed, which were filtered off, washed with isopropanol and ether to give the title compound as the hydrochloride salt (18.0 g, 41%).

reactant | 5-chlorosalicylaldehyde | 0.16 mol, 25.0 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | potassium carbonate | 0.5 mol, 70.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methallyl chloride | 0.27 mol, 27.0 ml | C(C(C)=C)Cl | C4H7Cl
reactant | ethyl amine hydrochloride | 0.49 mol, 40.0 g | Cl.C(C)N
reactant | sodium borohydride | 0.12 mol, 4.6 g | [BH4-].[Na+]
reactant | HCl | 6N, 200 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | ether | ~1.0 ml | CCOCC | C4H10O
solvent | N-methylpyrrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
product | N-Ethyl 5-chloro-2-(2-methylprop-2-en-1-yloxy)benzylamine | C(C)NCC1=C(C=CC(=C1)Cl)OCC(=C)C | C13H18ClNO
